US07456164B2
Intermediate 87: tert-butyl 4-cyano-4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]piperidine-1-carboxylate
The title compound (1.8 g, 53%) was prepared using [4-(3-pyrrolidin-1-ylpropoxy)phenyl]acetonitrile, tert-butyl bis(2-chloroethyl)carbamate, sodium hydride and potassium iodide similarly to the procedure used for intermediate 56. LRMS APCI+ m/z 414 [MH]+ and m/z 245 [SMH]+.

reactant | [4-(3-pyrrolidin-1-ylpropoxy)phenyl]acetonitrile | N1(CCCC1)CCCOC1=CC=C(C=C1)CC#N | C15H20N2O
reactant | tert-butyl bis(2-chloroethyl)carbamate | ClCCN(C(OC(C)(C)C)=O)CCCl | C9H17Cl2NO2
reactant | sodium hydride | [H-].[Na+]
reactant | potassium iodide | [I-].[K+]
product | tert-butyl 4-cyano-4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]piperidine-1-carboxylate | 1.8 g, 53% | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OCCCN1CCCC1 | C24H35N3O3
